US04395411
Conc. Hydrochloric acid (0.43 ml.) was added to a solution of 7-[2-(6-formamidopyridin-2-yl)-2-propargyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (2.35 g.) in methanol (15 ml.), and the mixture was stirred at ambient temperature for 30 minutes. The methanol was removed by distillation under reduced pressure from the reaction mixture, and the remaining aqueous solution was diluted with water (100 ml.) and then adjusted to pH 2 with an aqueous solution of sodium bicarbonate. The precipitating crystals were collected by filtration, washed with water and then dried to give 7-[2-(6-aminopyridin-2-yl)-2-propargyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer) (1.05 g.), mp. 163°-165° C. (dec.).

reactant | Hydrochloric acid | 0.43 ml | Cl | ClH
reactant | 7-[2-(6-formamidopyridin-2-yl)-2-propargyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 2.35 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOCC#C | C21H19N9O6S2
solvent | methanol | 15 ml | CO | CH4O
product | 7-[2-(6-aminopyridin-2-yl)-2-propargyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 1.05 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O)=NOCC#C | C20H19N9O5S2
